US06562849B1
N-[2-(4-[2-[4(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)ethyl]-2,4,6-triisopropylbenzenesulfonamide hydrochloride (hydrochloride of exemplification compound number 1-336)
To a mixture of 5-[4-[6-[4-(2-aminoethyl)phenoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (0.3 g), triethylamine (0.17 g) and anhydrous N,N-dimethylformamide (10 ml) was added 2,4,6-triisopropylbenzenesulfonyl chloride (0.17 g) and the mixture was stirred at room temperature for 4.5 hours. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. The residue was chromatographed on a silica gel column using ethyl acetate:n-hexane=2:1 as the eluant. To a solution of the product in ethyl acetate (15 ml) was added 4N hydrogen chloride in 1,4-dioxane (2 ml) and the mixture was stirred at room temperature for 20 minutes. The precipitate was isolated by filtration and washed with ethyl acetate to afford the title compound (0.28 g, mp 134-136° C.).

reactant | 5-[4-[6-[4-(2-aminoethyl)phenoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 0.3 g | Cl.Cl.NCCC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1
reactant | triethylamine | 0.17 g | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-triisopropylbenzenesulfonyl chloride | 0.17 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[2-(4-[2-[4(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)ethyl]-2,4,6-triisopropylbenzenesulfonamide hydrochloride | 0.28 g | Cl.O=C1SC(C(N1)=O)CC1=CC=C(OCC2=NC3=C(N2C)C=C(C=C3)OC3=CC=C(C=C3)CCNS(=O)(=O)C3=C(C=C(C=C3C(C)C)C(C)C)C(C)C)C=C1 | InChI=1S/C42H48N4O6S2.ClH/c1-25(2)30-21-34(26(3)4)40(35(22-30)27(5)6)54(49,50)43-19-18-28-8-14-32(15-9-28)52-33-16-17-36-37(23-33)46(7)39(44-36)24-51-31-12-10-29(11-13-31)20-38-41(47)45-42(48)53-38;/h8-17,21-23,25-27,38,43H,18-20,24H2,1-7H3,(H,45,47,48);1H
